US09060517B2
Step 1) Synthesis of 6-fluoroisatin
9.6 g of 3-fluoroaniline were added to 590 mL of water followed by the addition of 17.2 g of trichloroacetaldehyde monohydrate, 21.9 g of hydroxyamine hydrochloride and 98.2 g of anhydrous sodium sulfate and stirring the mixture for 5 hours at 50° C. After cooling the resultant to room temperature and allowing to stand overnight, 31 mL of 2 N HCl were added thereto followed by stirring the mixture for 30 minutes and then filtering out the crystals. After drying the resulting crystals, the crystals were added to concentrated sulfuric acid heated to 70° C., followed by stirring the mixture for 1 hour at 80° C. to 90° C. The reaction mixture was poured over ice followed by extracting with ethyl acetate and washing with saturated saline. After drying the organic layer with magnesium sulfate, the solvent was distilled off under reduced pressure to obtain 7.96 g of a crude product of 6-fluoroisatin.

reactant | 3-fluoroaniline | 9.6 g | FC=1C=C(N)C=CC1 | C6H6FN
reactant | trichloroacetaldehyde monohydrate | 17.2 g | O.ClC(C=O)(Cl)Cl
reactant | hydroxyamine hydrochloride | 21.9 g | Cl.ON
reactant | sodium sulfate | 98.2 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | HCl | 2 N, 31 mL | Cl | ClH
solvent | water | 590 mL | O | H2O
product | 6-fluoroisatin | 7.96 g | FC1=CC=C2C(C(NC2=C1)=O)=O | C8H4FNO2
